Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ swelling and redness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ History of BPH on finasteride no significant medical history 
who presents emergency department for evaluation of left leg 
swelling. He was in ___ from ___. On to felt unwell, 
which he attributed to food poisoning. He had low-grade fevers 
and headache. After which 2 days, he noticed some calf swelling 
but no redness. The swelling has gotten progressively worse. He 
denies any penile discharge no unprotected sex the last two 
weeks. Denies being in ocean or any bites or cuts.  
 
 In the ED, initial vitals were:  
 98.6 95 ___ 98% RA  
 
 Exam notable for  
 GU exam is unremarkable  
 ___ appears grossly swollen, redness spreading up to groin. 
extensive cellulits no subcue on gas no emphemsyma on exam. 
+weeping to shin and calf. Pt notes redness did not extend past 
his knee this AM.  
 Labs showed  
 Leukocytosis, ___ 11  
 
 Imaging showed  
 ___ ___  
 1. No evidence of deep venous thrombosis in the left lower 
extremity veins.  
 2. Mobile echogenicity within the left common femoral vein 
likely reflects slow blood flow.  
 Received  
 ___ 20:31 IV Vancomycin (1000 mg ordered)  
 ___ 20:31 PO Doxycycline Hyclate 100 mg  
 ___ 21:31 IV CeftriaXONE (1 g ordered)  
 Transfer VS were  
 98.5 94 139/87 16 95% RA  
 
 Decision was made to admit to medicine for further management.  

 On arrival to the floor, patient reports no pain or chills. He 
does note that he has been taking ibuprophen around the clock.  
 Review of systems:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain. denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  

 
Past Medical History:
low testosterone
alopecia
erectile dysfunction
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION EXAM 
Vital Signs: 98 137/85 93 18 93 RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: ___ erythematous, shin violacious with weeping ulceration 
over mid tibia. Diffusely edematous. Extent of erythema marked 
approx. at inguinal crease. RLE unremarkable  
 
DISCHARGE EXAM
VS -  98.0PO 122/78 77 18 93 RA 

General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: ___ erythematous, shin with erosions over mid tibia. mild 
edema imporving. Extent of erythema marked approx. at inguinal 
crease appears improving, no extension. RLE unremarkable. dp 2+. 

Neuro: CN II-XII intact, sensation intact. 
dorsiflexion/plantarflexion ___ b/l
 
Pertinent Results:
ADMISSION LABS

___ 06:45PM   PLT COUNT-328#
___ 06:45PM   NEUTS-71.4* LYMPHS-13.6* MONOS-11.0 EOS-1.8 
BASOS-0.4 IM ___ AbsNeut-7.87* AbsLymp-1.50 AbsMono-1.21* 
AbsEos-0.20 AbsBaso-0.04
___ 06:45PM   WBC-11.0*# RBC-4.69 HGB-16.2 HCT-44.8 MCV-96 
MCH-34.5* MCHC-36.2 RDW-13.1 RDWSD-45.5
___ 06:45PM   CRP-GREATER TH
___ 06:45PM   CK(CPK)-152
___ 06:45PM   estGFR-Using this
___ 06:45PM   GLUCOSE-83 UREA N-17 CREAT-0.8 SODIUM-138 
POTASSIUM-4.4 CHLORIDE-98 TOTAL CO2-24 ANION GAP-20
___ 07:00PM   LACTATE-1.6

DISCHARGE LABS

___ 07:50AM BLOOD WBC-7.9 RBC-4.66 Hgb-15.5 Hct-44.6 MCV-96 
MCH-33.3* MCHC-34.8 RDW-12.7 RDWSD-44.5 Plt ___
___ 07:50AM BLOOD Plt ___
___ 07:50AM BLOOD Glucose-129* UreaN-13 Creat-0.9 Na-138 
K-4.5 Cl-100 HCO3-23 AnGap-20
___ 07:50AM BLOOD Mg-2.___ previously healthy, presenting with rapidly progressive 
cellulitis. 

 # Purulent cellulitis: Severe, progressive, involving entire 
leg with ulcerations over approx 24hr period. CRP greater than 
assay. No fevers, does not appear systemically ill. No major 
risk factors for necrotizing infection. CT without gas or 
abscess. Currently improving on abx. Surgery consulted and 
recommended no surgery, treat for cellulitis with abx. 
Vanc/unasyn/clinda started ___. ID consulted and recommended 
ceftriaxone/clinda which was started ___ for likely 
streptococcus infection. Clinda was given for total 72 hours. He 
was switched to po linezolid on ___ for its anti-toxin effect 
per ID recommendations. Will take linezolid for 1 week. ___ 
recommended for mobility change and recommended home with cane.

#Chronic:
-Cont ambien
-cont finasteride for alopecia
-holding testosterone injections, has not taken in weeks

TRANSITIONAL ISSUES:
- Antibiotic course: PO Linezolid x 7 days (___)
- Follow up with ___ Health ___
- Will need to do wound care at home as instructed for 
ulcers/lower extremity swelling. Was instructed by wound care 
and will do self-care at home.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 
2. Testosterone Cypionate 100 mg IM QWEEK 
3. Finasteride 1.25 mg PO DAILY 
4. Cialis (tadalafil) 10 mg oral DAILY:PRN 

 
Discharge Medications:
1.  Linezolid ___ mg PO Q12H Duration: 7 Days 
RX *linezolid ___ mg 1 tablet(s) by mouth twice a day Disp #*13 
Tablet Refills:*0 
2.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth q4h prn Disp #*16 
Capsule Refills:*0 
3.  wound dressings ___ gauze topical DAILY 
RX *wound dressings  apply to wound daily after shower daily 
Disp #*30 Packet Refills:*0 
4.  Cialis (tadalafil) 10 mg oral DAILY:PRN  
5.  Finasteride 1.25 mg PO DAILY  
6.  Testosterone Cypionate 100 mg IM QWEEK  
7.  Zolpidem Tartrate 5 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to take care of you at ___ 
___. You had to stay in the hospital for cellulitis 
(aka infection of your skin). You had a CT scan of your leg and 
were seen by the surgeons who did not think you needed surgery.
You were given antibiotics for your infection, which you should 
continue to take as prescribed.

Please follow up at ___ on ___.

Please return to the hospital for fevers > 100.4F, worsening 
redness/pain/swelling to the leg, shortness of breath, or chest 
pain.

Please follow the following wound care recommendations:

Recommendations:  
   Elevate ___ while sitting.
   Moisturize ___ intact skin and feet BID with Sooth and Cool
Ointment.
             
Topical Therapy:
   ___ shower with dressing off.
   After shower, clean ___ anterior tibia wound with Commercial
wound cleanser or normal saline.
   Pat the tissue dry with dry gauze.
   Apply Sooth and Cool Ointment to intact skin ___ and heel
daily.
   Apply Xeroform gauze to Left anterior tibia
   Cover with Sofsorb Sponge, Kerlix wrap
   No tape on the skin
   Change dressing daily

   Once cellulitis has improve in his lower leg area may-

   Apply Spiral Ace Wraps to ___ 
       From just above toes to just below knees  
       Before patient gets OOB or after elevating ___
           for ___ minutes prior to application.
       Remove ace wraps at bedtime.   

Sincerely,
Your ___ Team
 
Followup Instructions:
___